US08957073B2
To a mixture of (1H-Benzoimidazol-2-yl)-[3-(3-chloro-pyrazin-2-yl)-azetidin-1-yl]-methanone (188 mg, 0.6 mmol) in 1,4-dioxane/water (5:1, 12 mL) was added 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (278 mg, 0.9 mmol), K3PO4 (254 mg, 1.2 mmol) and Pd(dppf)Cl2 (44 mg, 0.06 mmol). The mixture was refluxed overnight. The reaction mixture was filtered and concentrated. The residue was purified by ISCO silica gel column (10% to 80% EtOAc in petroleum ether) to give 4-{3-[1-(1H-benzoimidazole-2-carbonyl)-azetidin-3-yl]-pyrazin-2-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (221 mg, 0.48 mmol, yield 80%). ESI-MS (M+1): 461 calc. for C25H28N6O3 460.

reactant | (1H-Benzoimidazol-2-yl)-[3-(3-chloro-pyrazin-2-yl)-azetidin-1-yl]-methanone | 0.6 mmol, 188 mg | N1C(=NC2=C1C=CC=C2)C(=O)N2CC(C2)C2=NC=CN=C2Cl | C15H12ClN5O
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.9 mmol, 278 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | K3PO4 | 1.2 mmol, 254 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane water | 12 mL | O1CCOCC1.O
catalyst | Pd(dppf)Cl2 | 0.06 mmol, 44 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-{3-[1-(1H-benzoimidazole-2-carbonyl)-azetidin-3-yl]-pyrazin-2-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.48 mmol, 221 mg, yield 80% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=NC=CN=C1C1CN(C1)C(=O)C1=NC2=C(N1)C=CC=C2 | C25H28N6O3
